US20010052156A1
1.3.4. Preparation of N-Ethyl-2-Nitro-5-Aminoaniline
Step b) was carried out in the same way as Example 1.3.3. step b) by reacting N-ethyl-2-nitro-5-acetaminoaniline with hydrochloric acid.

reactant | N-ethyl-2-nitro-5-acetaminoaniline | C(C)NC1=C(C=CC(=C1)NC(=O)C)[N+](=O)[O-] | C10H13N3O3
reactant | hydrochloric acid | Cl | ClH
product | N-Ethyl-2-Nitro-5-Aminoaniline | C(C)NC1=C(C=CC(=C1)N)[N+](=O)[O-] | C8H11N3O2
